### PR TITLE
[Merged by Bors] - feat(Algebra/Homology): natural transformations between right derived functors on bounded below derived categories

### PR DESCRIPTION
**Pull request by joelriou**
In #43267, we defined the functor `F.rightDerivedFunctorPlus` on the bounded below derived categories for any additive functor `F` between abelian categories (where the source category has enough injectives). Here, we show that a natural transformation `τ : F₁ ⟶ F₂` induces a natural transformation `F₁.rightDerivedFunctorPlus ⟶ F₂.rightDerivedFunctorPlus`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/CochainComplexPlus.lean [hunk 1]
```diff
@@ -124,6 +124,20 @@ instance [Preadditive C] : (CochainComplex.plus C).IsStableUnderShift ℤ where
   isStableUnderShiftBy n :=
     ⟨fun K ⟨k, hk⟩ ↦ ⟨k - n, K.isStrictlyGE_shift k n _ (by lia)⟩⟩
 
+instance [Preadditive C] [CategoryWithHomology C] :
+    (HomologicalComplex.quasiIso C (.up ℤ)).IsCompatibleWithShift ℤ := inferInstance
+
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/CochainComplexPlus.lean]: Is there a need for this shortcut instance? Things still build fine without it.

File: Mathlib/Algebra/Homology/DerivedCategory/RightDerivedFunctorPlus.lean [hunk 2]
```diff
@@ -141,4 +142,102 @@ example (K : CochainComplex.Plus (InjectiveObject C)) :
...
+@[reassoc (attr := simp)]
+lemma rightDerivedFunctorPlus_fac (τ : F₁ ⟶ F₂) :
+    F₁.rightDerivedFunctorPlusUnit ≫
+      whiskerLeft DerivedCategory.Plus.Q τ.rightDerivedFunctorPlus =
+    whiskerRight (τ.mapCochainComplexPlus) _ ≫ F₂.rightDerivedFunctorPlusUnit := by
+  cat_disch
+
+/-- The additive map from `F₁ ⟶ F₂` to `F₁.rightDerivedFunctorPlus ⟶ F₂.rightDerivedFunctorPlus`
+that is given by `NatTrans.rightDerivedFunctorPlus`. -/
+@[implicit_reducible, simps!]
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/DerivedCategory/RightDerivedFunctorPlus.lean]: Is there a particular reason this is made implicit_reducible?

File: Mathlib/Algebra/Homology/HomotopyCategory/Plus.lean [hunk 3]
```diff
@@ -385,4 +384,48 @@ def mapHomotopyCategoryPlusCompIso {E : Type*} [Category* E] [Preadditive E]
...
+lemma mapHomotopyCategoryPlus_app_quotient_obj (τ : F₁ ⟶ F₂) (K : CochainComplex.Plus C) :
+    τ.mapHomotopyCategoryPlus.app ((HomotopyCategory.Plus.quotient C).obj K) =
+      F₁.quotientCompMapHomotopyCategoryPlusIso.hom.app K ≫
+          (HomotopyCategory.Plus.quotient D).map (τ.mapCochainComplexPlus.app K) ≫
+        F₂.quotientCompMapHomotopyCategoryPlusIso.inv.app K := by
+  ext : 1
+  dsimp
+  rw [Functor.quotientCompMapHomotopyCategoryPlusIso_hom_app_hom,
+    Functor.quotientCompMapHomotopyCategoryPlusIso_inv_app_hom]
+  change _ = 𝟙 _ ≫ _ ≫ 𝟙 _
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/HomotopyCategory/Plus.lean:410]: Is there a way to remove this?
Tracing the goal state before and after, it seems the `change` is unfolding some `Functor.MapCochainComplexPlus`, but it is already implicit_reducible, so I am not sure what is going on here.

File: Mathlib/CategoryTheory/Functor/Derived/RightDerivedCommShift.lean [hunk 4]
```diff
@@ -143,4 +143,47 @@ end IsRightDerivedFunctor
...
+    τ'.CommShift A where
+  shift_comm a :=
+    Functor.rightDerived_ext _ (precomposeShiftNatTrans RF₁ α₁ _) W _ _ _ (by
+      ext X
+      replace h := NatTrans.congr_app h
+      dsimp at h
+      simp only [Functor.comp_obj, Functor.whiskerLeft_comp, comp_app, precomposeShiftNatTrans_app,
+        Functor.whiskerLeft_app, Functor.whiskerRight_app, Category.assoc,
+        Functor.whiskerLeft_twice, Functor.associator_inv_app, Functor.associator_hom_app,
+        Category.id_comp, naturality_assoc]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Functor/Derived/RightDerivedCommShift.lean]:
```suggestion
      dsimp at h ⊢
      simp only [precomposeShiftNatTrans_app, Category.assoc, naturality_assoc]
```

File: Mathlib/Algebra/Homology/HomotopyCategory/Plus.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/HomotopyCategory/Plus.lean:410]: I have tried to remove it, but failed to do so. It *may* have to do with the fact that `𝟙` takes an explicit parameter as Jovan mentioned some days ago: `comp_id` or `id_comp` are probably conservatively more strict than other simp lemmas. Having a few of such `change` probably outweights the hassle of the suggested hack.

File: Mathlib/Algebra/Homology/CochainComplexPlus.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/CochainComplexPlus.lean]: Right. There was no reason for it!

File: Mathlib/Algebra/Homology/DerivedCategory/RightDerivedFunctorPlus.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/DerivedCategory/RightDerivedFunctorPlus.lean]: No, it was not particularly necessary.

**Comment by joelriou** [comment]
Thanks @robin-carlier fro the reviews!

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
